data/oMe_Silver.jsonl
{"reaction_id": "NR-001_1-C1CCCCC1_2-C(Cl)(Cl)Cl","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(C1CCCCC1)(C(Cl)(Cl)Cl)C=O","C(C1CCCCC1)(C(Cl)(Cl)Cl)C=O"],"products_smiles": ["C(C1CCCCC1)(C(Cl)(Cl)Cl)C(O)C(C1CCCCC1)(C(Cl)(Cl)Cl)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(C(Cl)(Cl)Cl)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCCC1)(C(Cl)(Cl)Cl)C([O-])C(C1CCCCC1)(C(Cl)(Cl)Cl)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(C(Cl)(Cl)Cl)C(O)C(C1CCCCC1)(C(Cl)(Cl)Cl)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
{"reaction_id": "NR-223_1-C#C_2-c1ccc2ccccc2c1_3-c1ccc(C(F)(F)F)cc1_4-c1ccc(OC)cc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(C#C)(c1ccc2ccccc2c1)(O)C(O)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)"],"products_smiles": ["C(=O)(C#C)C(c1ccc2ccccc2c1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C#C)(c1ccc2ccccc2c1)(O)C([OH2+])(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(C#C)(c1ccc2ccccc2c1)(O)[C+](c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(C#C)C(c1ccc2ccccc2c1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-061_1-c1ccccc1_2-C(F)(F)F","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(c1ccccc1)C(=O)CCCC(=O)O(C(F)(F)F)"],"products_smiles": ["O(c1ccccc1)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(c1ccccc1)C(=O)[CH-]CCCC(=O)O(C(F)(F)F)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(c1ccccc1)C(=O)C1C([O-])(O(C(F)(F)F))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(c1ccccc1)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
